US06949571B2
(14b) 5-Bromo-3-nitro-1-phenyl-1,2-dihydropyridin-2-one
10 ml of a dimethylformamide solution containing 1 g of 3-nitro-1-phenyl-1,2-dihydropyridin-2-one was incorporated with 988 mg of N-bromosuccinimide, followed by stirring at room temperature overnight. Further, it was stirred at 50° C. for 3 hours. The reaction mixture was poured into ice-water, and the resulting precipitates were collected by filtration, to give 1.27 g of the title compound.

reactant | 3-nitro-1-phenyl-1,2-dihydropyridin-2-one | 1 g | [N+](=O)([O-])C=1C(N(C=CC1)C1=CC=CC=C1)=O | C11H8N2O3
reactant | N-bromosuccinimide | 988 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 5-Bromo-3-nitro-1-phenyl-1,2-dihydropyridin-2-one | 1.27 g | BrC=1C=C(C(N(C1)C1=CC=CC=C1)=O)[N+](=O)[O-] | C11H7BrN2O3
